US08304036B2
A mixture of 12.7 g (60.6 mmol) of 2-bromoselenophene, 17.7 g (60.6 mmol) of 2′,3′-difluoro-4′-propoxybiphenyl-4-ylboronic acid, 5.55 g (4.80 mmol) of tetrakis(triphenylphosphine)palladium(0) and 180 ml of 2 N sodium carbonate soln. in 600 ml of toluene/ethanol (1:1) is heated under reflux for 20 h. After cooling, the organic phase is separated off, and the aqueous phase is extracted with toluene. The combined organic phases are washed with sat. sodium chloride soln., and the solution is dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, toluene). Further purification is carried out by recrystallisation from n-heptane:EtOH=3:1. 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)selenophene is obtained as a yellow solid.

reactant | 2-bromoselenophene | 60.6 mmol, 12.7 g | BrC=1[Se]C=CC1 | C4H3BrSe
reactant | 2′,3′-difluoro-4′-propoxybiphenyl-4-ylboronic acid | 60.6 mmol, 17.7 g | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)B(O)O | C15H15BF2O3
reactant | sodium carbonate | 2 N, 180 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 600 ml | C1(=CC=CC=C1)C.C(C)O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 4.80 mmol, 5.55 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)selenophene | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C=CC1 | C19H16F2OSe
